US05240929
1-[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-1-propanone
A solution of 8.4 g (28 mmol) of 4,6-bis(1,1-dimethylethyl)-5-hydroxy-N-methoxy-N-methyl-2-pyrimidinecarboxamide in 150 mL of tetrahydrofuran was cooled in ice and treated dropwise with 40 mL (120 mmol) of a 3.0M solution of ethylmagnesium bromide in diethyl ether. The mixture was stirred in ice for 2 hours, then at room temperature for an additional 16 hours. The reaction mixture was again cooled in ice, and excess Grignard reagent was destroyed by dropwise addition of 50 mL of saturated aqueous ammonium chloride solution. The reaction mixture was added to 400 mL of ammonium chloride solution and extracted several times with ethyl acetate. The combined organic layers were washed with brine, dried (anhydrous sodium sulfate), and evaporated. Recrystallization of the residue from hexane yielded 5.0 g (67%) of the ethyl ketone product, mp 123° C.-125° C.

reactant | 4,6-bis(1,1-dimethylethyl)-5-hydroxy-N-methoxy-N-methyl-2-pyrimidinecarboxamide | 28 mmol, 8.4 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(=O)N(C)OC | C15H25N3O3
reactant | ethylmagnesium bromide | C(C)[Mg]Br
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-1-propanone | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(CC)=O | C15H24N2O2
